US06646165B2
A 4-necked, 1-liter flask equipped with a stirrer, a thermometer, a dropping funnel and a condenser tube was charged with a monochlorobenzene solution (0.871 mole of 4-chlorothiophenol) of 4-chlorothiophenol (13.3% of impurities) prepared by the process of Example 2 and 520 g (0.929 mole) of an aqueous solution of 10 wt % potassium hydroxide. The mixture was reacted at 25° C. for 15 minutes and was subjected to separation procedure to give an aqueous solution of potassium 4-chlorothiophenolate.

reactant | monochlorobenzene | 0.871 mole | ClC1=CC=CC=C1 | C6H5Cl
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium hydroxide | [OH-].[K+]
product | potassium 4-chlorothiophenolate | ClC1=CC=C(C=C1)[S-].[K+] | InChI=1S/C6H5ClS.K/c7-5-1-3-6(8)4-2-5;/h1-4,8H;/q;+1/p-1
